US04115385
To a stirred solution of 1.69 g. (3 m mole) of 6-(triphenylmethylamino)-2,2-dimethyl-3-(N-[4-hydroxybenzyl]carbamoyl)penam prepared as described in Example XIII in 9 ml. of chloroform is added 1 ml. (12 mmole) of pyridine. The solution is cooled to ca. 4° C. in an ice-bath and 0.80 ml. of chlorotrimethylsilane is added. The solution is stirred for 40 minutes at ambient temperature, and then it is again cooled to ca. 4° C. Phosgene (1.5 ml. of a 4.3 M solution in chloroform 6.45 mmole) is added and the cooling bath is removed. Stirring is continued for a further 1.5 hours, and then all the volatile components are removed by evaporation in vacuo. The oily residue is redissolved in 6 ml. of chloroform and the solution is cooled to ca. 4° C. in an ice-bath. To the stirred solution is added 0.95 g. (6 mmole) of tetramethylguanidinium azide, and then stirring is continued for a further 1 hour at ambient temperature. At this point, 25 ml. of water is added, followed by sufficient 1N sodium hydroxide to bring the pH of the aqueous phase to 10. The chloroform layer is removed, washed with water, dried using sodium sulfate, and evaporated to dryness in vacuo. This affords crude 6-(triphenylmethylamino)-2,2-dimethyl-3-(1-[4-trimethylsilyloxybenzyl]tetrazol-5-yl)penam, which is purified by chromatography on silica gel using chloroform as eluant.

reactant | 6-(triphenylmethylamino)-2,2-dimethyl-3-(N-[4-hydroxybenzyl]carbamoyl)penam | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C(NCC2=CC=C(C=C2)O)=O)C1=O | C34H33N3O3S
reactant | pyridine | 12 mmole | N1=CC=CC=C1 | C5H5N
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | tetramethylguanidinium azide | 6 mmole | [N-]=[N+]=[N-].CN(C(N(C)C)=[NH2+])C
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 6.45 mmole | C(Cl)(Cl)Cl | CHCl3
product | 6-(triphenylmethylamino)-2,2-dimethyl-3-(1-[4-trimethylsilyloxybenzyl]tetrazol-5-yl)penam | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2CC2=CC=C(C=C2)O[Si](C)(C)C)C1=O | C37H40N6O2SSi
